US09238640B2
Preparation of 5,7-Dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one
A mixture of 2-(4-(4-acetylpiperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one (1.93 g, 4.7 mmol) and 2 M HCl (200 mL) was heated at reflux for 9 hours. Then, the mixture was cooled to room temperature, basified to pH 8 with 2 N NaOH, extracted with CH2Cl2 (3×300 mL), dried over anhydrous MgSO4, filtered, and concentrated. The residue was purified by silica gel chromatography, eluting with 92:7:1 to 6:3:1 CHCl3/MeOH/concentrated NH4OH, to afford the title compound (1.13 g, 66%). 1H NMR (300 MHz, DMSO-d6): δ 8.08 (d, J=8.9 Hz, 2H), 6.99 (d, J=8.9 Hz, 2H), 6.68 (d, J=2.3 Hz, 1H), 6.47 (d, J=2.3 Hz, 1H), 3.88 (s, 3H), 3.83 (s, 3H), 3.19-3.23 (m, 4H), 2.81-2.84 (m, 4H); APCI MS m/z 367 [M+H]+.

reactant | 2-(4-(4-acetylpiperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 4.7 mmol, 1.93 g | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C22H24N4O4
reactant | NaOH | 2 N | [OH-].[Na+]
solvent | HCl | 2 M, 200 mL | Cl | ClH
product | 5,7-Dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one | 1.13 g, 66% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CCNCC1)=O | C20H22N4O3
